US06620811B2
N-(4-Methoxy-7-piperidin-1-yl-benzothiazol-2-yl)-2-(4-methyl-piperazin-1-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-piperidin-1-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and N-methylpiperazine. ES-MS m/e (%): 467 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-piperidin-1-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCCCC3)OC)C=CN1 | C19H19BrN4O2S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | N-(4-Methoxy-7-piperidin-1-yl-benzothiazol-2-yl)-2-(4-methyl-piperazin-1-yl)-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)N2CCN(CC2)C)=O)N2CCCCC2 | C24H30N6O2S
